US06235680B1
2a. N-(4-Sulfamoylphenyl)-2,4-dichlorobenzamide
10 g (60mmol) of sulfanilamide are suspended in 150 ml of dioxane and 4.6 g (60 mmol) of pyridine are added. 12.2 g (60 mmol) of 2,4-dichloro-benzoyl chloride are then added at 0° C., and stirring is continued for 2 hours at room temperature. The mixture is stirred in 200 ml of water, and the precipitate which separates out is filtered off with suction and dried;

reactant | sulfanilamide | 60mmol, 10 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | pyridine | 60 mmol, 4.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2,4-dichloro-benzoyl chloride | 60 mmol, 12.2 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | N-(4-Sulfamoylphenyl)-2,4-dichlorobenzamide | S(N)(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C13H10Cl2N2O3S
